US08017607B2
To a mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (35.4 mg, 0.084 mmol) in CH2Cl2 (3 mL) was added DIPEA (44.5 mg, 0.344 mmol) and 6-morpholin-4-yl-pyridine-3-sulfonyl chloride (45.0 mg, 0.171 mmol, Maybridge). It was stirred at rt for 3.5 hrs under argon. More DIPEA (29.7 mg, 0.230 mmol) and 6-morpholin-4-yl-pyridine-3-sulfonyl chloride (18.7 mg, 0.071 mmol, Maybridge) were added. After 1.75 hrs the reaction mixture was extracted with EtOAc, washed with water, saturated sodium bicarbonate, water, and saturated NaCl. The organic phase was separated, and dried over Na2SO4. The reaction mixture was then purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(6-morpholin-4-yl-pyridine-3-sulfonyl)-pyrrolidine-3-carbonitrile (19.4 mg, 35.7%). HRMS (ES+) m/z Calcd for C31H32Cl2F2N4O3S H [(M+H)+]: 649.1613; Found: 649.1615.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.084 mmol, 35.4 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | DIPEA | 0.344 mmol, 44.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-morpholin-4-yl-pyridine-3-sulfonyl chloride | 0.171 mmol, 45.0 mg | N1(CCOCC1)C1=CC=C(C=N1)S(=O)(=O)Cl | C9H11ClN2O3S
reactant | DIPEA | 0.230 mmol, 29.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-morpholin-4-yl-pyridine-3-sulfonyl chloride | 0.071 mmol, 18.7 mg | N1(CCOCC1)C1=CC=C(C=N1)S(=O)(=O)Cl | C9H11ClN2O3S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(6-morpholin-4-yl-pyridine-3-sulfonyl)-pyrrolidine-3-carbonitrile | 19.4 mg, 35.7% | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)S(=O)(=O)C=1C=NC(=CC1)N1CCOCC1)F | C31H32Cl2F2N4O3S
